US08372874B2
Potassium trimethylsilanolate (3.1 g, 24.65 mmol) is added to a solution of 2-(4-methoxy-cyclohexanesulfonyl)-2-methyl-propionic acid ethyl ester (3.6 g, 12.3 mmol) in 100 mL of THF. After stirring the reaction mixture at room temperature for 4 h, the solvent is removed under reduced pressure, saturated aqueous NaHCO3 solution is added and the mixtures is extracted with ethyl acetate. The two phases are separated and the aqueous layer is acidified with 2N aqueous HCl solution and extracted with ethyl acetate; the combined organic extracts are washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to afford 2.6 g of 2-(4-methoxy-cyclohexanesulfonyl)-2-methyl-propionic acid. Yield: 73%, over two steps. 1H-NMR (500 MHz, CHLOROFORM-d) δ ppm 1.21-1.37 (2H, m), 1.64-1.81 (8H, m), 2.19-2.32 (4H, m), 3.18-3.28 (1H, m), 3.40 (3H, s), 3.45 (1H, tt, J=11.96, 3.53 Hz); ES-MS: m/z 263 [M−H]

reactant | Potassium trimethylsilanolate | 24.65 mmol, 3.1 g | C[Si]([O-])(C)C.[K+]
reactant | 2-(4-methoxy-cyclohexanesulfonyl)-2-methyl-propionic acid ethyl ester | 12.3 mmol, 3.6 g | C(C)OC(C(C)(C)S(=O)(=O)C1CCC(CC1)OC)=O | C13H24O5S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(4-methoxy-cyclohexanesulfonyl)-2-methyl-propionic acid | 2.6 g, Yield: 73% | COC1CCC(CC1)S(=O)(=O)C(C(=O)O)(C)C | C11H20O5S
